US08426411B2
A parr shaker was charged with PdOH2 on carbon (2.243 g, 3.19 mmol) and (cis)-ethyl 1-benzyl-4-ethylpyrrolidine-3-carboxylate (16.7 g, 63.9 mmol) followed by EtOH (100 mL). The reaction mixture was degassed and purged with hydrogen gas and shaken on the parr shaker at 60 psi for about 4 days at ambient temperature. The reaction mixture was degassed and purged with nitrogen. The suspension was filtered through a pad of Celite® washing with EtOH (˜900 mL). The solvent was removed under reduced pressure to afford (cis)-ethyl 4-ethylpyrrolidine-3-carboxylate (8.69 g, 79%) as an oil: LC/MS (Table 1, Method a) Rt=1.11 min; MS m/z: 172 (M+H)+.

reactant | (cis)-ethyl 1-benzyl-4-ethylpyrrolidine-3-carboxylate | 63.9 mmol, 16.7 g | C(C1=CC=CC=C1)N1C[C@H]([C@H](C1)CC)C(=O)OCC | C16H23NO2
solvent | EtOH | 100 mL | CCO | C2H6O
product | (cis)-ethyl 4-ethylpyrrolidine-3-carboxylate | 8.69 g, 79% | C(C)[C@@H]1[C@@H](CNC1)C(=O)OCC | C9H17NO2
